US04402974
Ethyl 3,4-Dihydroxybenzoate
A mixture which contained 43 g (0.28 mole) of 3,4-dihydroxybenzoic acid, 300 ml of ethanol and 0.5 ml of concentrated H2SO4 was refluxed for 48 hours. Water was trapped with 3A molecular sieves. The reaction mixture was evaporated to dryness in vacuo, and partitioned between ether and 5% NaHCO3 solution. The ether layer was evaporated to give 39 g (69%) of solid; m.p. 128°-130° C. The NMR and IR spectra were consistent with the assigned structure.

reactant | 3,4-dihydroxybenzoic acid | 0.28 mole, 43 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
solvent | Water | O | H2O
product | Ethyl 3,4-Dihydroxybenzoate | 39 g, 69% | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
